US05530026
Preparation of 5-[3-(2-chloroethyl)ureido]indane
To a solution of 2 g of 5-aminoindane in 125 mL of anhydrous ethyl ether was added dropwise, 1.25 g of 2-chloroethyl isocyanate. This solution is stirred for 16 h at room temperature, cooled at -20° C., and filtered. A white solid separated and was recrystallized from ethanol (white flakes), yield 40%, mp 155°-157° C., IR (KBr pellet): 3300 (NH), 1730 (C=O, ester), and 1640 cm-1 (C=O, ureido); 1H NMR (DMSO-d6 : CDCl3): 6.96 ppm, 3.52 ppm, 3.49 ppm, 3.46 ppm, 3.43 ppm, 2.74 ppm, 2.72 ppm, 1.93 ppm. In this spectrum hydrogen present on NH groups have exchanged with the presence of DMSO-d6.

reactant | 5-aminoindane | 2 g | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | 2-chloroethyl isocyanate | 1.25 g | ClCCN=C=O | C3H4ClNO
solvent | ethyl ether | 125 mL | C(C)OCC | C4H10O
product | 5-[3-(2-chloroethyl)ureido]indane | yield 40% | ClCCNC(NC=1C=C2CCCC2=CC1)=O | C12H15ClN2O
